* C:\Users\Soldo\Documents\Uni\PSE-project\lc_osc\lc_osc.asc
V1 N001 0 5
L1 N001 N002 100µ
L2 N002 N003 1m
C1 N001 N003 4.7n
C2 N002 N005 .01µ
Q1 N003 N004 N005 0 NPN
R1 N001 N004 1k
R3 N005 0 1k
R2 N004 0 10k
C3 N004 0 .1µ
C4 Vout N003 .1µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Soldo\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1m uic
.backanno
.end
