* E:\Projects - Fast Life\Uni\PSE-project\not_working\colpitts_osc\colpitts_osc.asc
V1 N001 0 9
R1 N001 N003 100k
R2 N003 0 5k
C3 N003 N005 100p
R4 N004 0 10k
Q1 N002 P001 N004 0 BC547B
C5 Vout N002 100p
I1 N003 P001 PULSE(0 1m 0 0 0 0 0 1)
R3 N001 N002 1k
C4 N004 0 100n
C1 0 N005 .01µ
C2 Vout 0 .01µ
L1 N005 Vout 10m
.model NPN NPN
.model PNP PNP
.lib C:\Users\Soldo\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100m
.backanno
.end
